US06521643B1
A suspension of N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-nitropyridin-2-yl)phenyl)guanidine (520 mg) in ethanol (15 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 500 mg) under a hydrogen atmosphere for 24 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure. The residue was triturated with ethanol, filtered, and dried to give N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-aminopyridin-2-yl)phenyl)guanidine (325 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-nitropyridin-2-yl)phenyl)guanidine | 520 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1[N+](=O)[O-])NC(=O)OC(C)(C)C | C22H27N5O6
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-aminopyridin-2-yl)phenyl)guanidine | 325 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1N)NC(=O)OC(C)(C)C | C22H29N5O4
